US07098364B2
5.2 g (0.022 mol) of (4-amino-3-chloro-5-trifluoromethyl-phenyl)-ethylene oxide was dissolved in 26 ml of anhydrous ethanol and treated with 5.1 ml (0.049 mol) of tert-butylamine. The mixture was refluxed for 13 h, and then evaporated. The residue was extracted with 2N hydrochloric acid for several times. Aqueous layers were combined and extracted with toluene and treated with activated carbon. The pH was adjusted to 10 with 20% sodium hydroxide solution. The precipitate was collected by filtration, 2-(4-amino-3-chloro-5-trifluoromethylphenyl)-2-tert-butylaminoethanol was obtained. Yield 20–30%; melting point 85–90° C.

reactant | (4-amino-3-chloro-5-trifluoromethyl-phenyl)-ethylene oxide | 0.022 mol, 5.2 g | NC1=C(C=C(C=C1C(F)(F)F)C1CO1)Cl | C9H7ClF3NO
reactant | tert-butylamine | 0.049 mol, 5.1 ml | C(C)(C)(C)N | C4H11N
solvent | ethanol | 26 ml | C(C)O | C2H6O
product | 2-(4-amino-3-chloro-5-trifluoromethylphenyl)-2-tert-butylaminoethanol | Yield 20–30% | NC1=C(C=C(C=C1C(F)(F)F)C(CO)NC(C)(C)C)Cl | C13H18ClF3N2O
